US09034866B2
Synthesis of (±)-9-(3,4-Dihydroxy-3-methyl-but-1-ynyl)-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo azulene-2-carboxylic acid amide
The title compound was prepared according to a procedure similar to that described in Procedure G. Into a 8-mL sealed tube purged and maintained with an inert atmosphere of nitrogen, was placed a suspension of 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide (200 mg, 0.58 mmol, 1.00 equiv), 2-methylbut-3-yne-1,2-diol (200 mg, 2.00 mmol, 3.50 equiv) and Pd(PPh3)2Cl2 (40 mg, 0.06 mmol, 0.10 equiv) in DMSO (1 mL) and triethylamine (1 mL). The final reaction mixture was irradiated with microwave radiation for 1 h at 70° C. The resulting solution was diluted with 20 mL, of water. The solids were collected by filtration and washed by acetonitrile (10 mL). This resulted in 30 mg (14%) of 9-(3,4-Dihydroxy-3-methyl-but-1-ynyl)-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide as a light brown solid. LC-MS (ES, m/z): 363[M+H]+; 1H-NMR (300 MHz, DMSO-d6, ppm) δ 8.64 (d, 1H), 8.438 (br s, 1H), 7.873 (br s, 1H), 6.997 (d, 1H), 5.397 (s, 1H), 4.971 (t, 1H), 4.383 (t, 2H), 3.510-3.380 (m, 4H), 1.426 (s, 3H).

reactant | 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | 0.58 mmol, 200 mg, 1.00 equiv | BrC=1C(=CC2=C(C=3N=C(SC3CCO2)C(=O)N)C1)F | C12H8BrFN2O2S
reactant | 2-methylbut-3-yne-1,2-diol | 2.00 mmol, 200 mg, 3.50 equiv | CC(CO)(C#C)O | C5H8O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.06 mmol, 40 mg, 0.10 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (±)-9-(3,4-Dihydroxy-3-methyl-but-1-ynyl)-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo azulene-2-carboxylic acid amide | OC(C#CC1=CC2=C(OCCC=3SC(=NC23)C(=O)N)C=C1F)(CO)C | C17H15FN2O4S
